### PR TITLE
Convexity of powR

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Motivation for this change

This change introduces:
- discrete lp spaces and correspondence lemmas with Lp spaces
- a specialization of hoelder for sums
- a further specialization for sums of 2 elements
- as a consequence of hoelder, we obtain the convexity of powR

Co-authored by: @affeldt-aist 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/hoelder.v [hunk 1]
```diff
@@ -0,0 +1,413 @@
...
+Proof.
+move=> sa.
+transitivity (\int[mseries (fun n => [the measure _ _ of \d_ n]) O]_t a t).
+  congr (integral _ _ _); apply/funext => A.
+  by rewrite /= counting_dirac.
+rewrite (@ge0_integral_measure_series _ _ R (fun n => [the measure _ _ of \d_ n]) setT)//=.
+by apply: eq_eseriesr=> i _; rewrite integral_dirac//= indicE mem_set// mul1e.
+Qed.
+
+Lemma Lnorm_lnorm_eq p (f : R^nat) : 'N[counting]_p [f] = `| f |~p.
```
Comment (CohenCyril) [inline theories/hoelder.v:218]: I'd let this be the definitional equation for `` `| f |~p`` and have a lemma stating 
`` `| f |~p =  (\sum_(x <oo) (`|f x| `^ p)%:E) `^ p^-1`` propositionally instead...

File: theories/hoelder.v [hunk 2]
```diff
@@ -0,0 +1,396 @@
...
+rewrite ger0_norm; last by [].
+by [].
+Qed.
+
+End hoelder_sums.
+
+Section convex_powR.
+Context d (T : measurableType d) (R : realType).
+Variable mu : {measure set T -> \bar R}.
+Local Open Scope ereal_scope.
```
Comment (CohenCyril) [inline theories/hoelder.v:292]: Why open this scope when most of your expressions are in `ring_scope` (`%R`)

File: theories/hoelder.v [hunk 3]
```diff
@@ -0,0 +1,396 @@
...
+move=> /andP [x0 x1] y0 r1.
+have x0' : (0 <= x)%R by rewrite le_eqVlt; apply/orP; right.
+rewrite powRM//.
+rewrite ler_wpmul2r// ?powR_ge0//.
+rewrite -[in leRHS](@powRr1 _ x)//.
+rewrite ger_powR//.
+apply/andP; split=>//.
+Qed.
+
+Local Open Scope convex_scope.
```
Comment (CohenCyril) [inline theories/hoelder.v:321]: Duplication of the opening of the `convex_scope`

File: theories/hoelder.v (hunk 1 above)
Comment (hoheinzollern) [reply theories/hoelder.v]: The current attempt actually even removes the definition and just uses `Lnorm`s with counting measure, so there's in fact one less layer to unfold

File: theories/hoelder.v (hunk 2 above)
Comment (hoheinzollern) [reply theories/hoelder.v]: This should be addressed now

**Comment by affeldt-aist** [comment]
CI is green.

**Comment by affeldt-aist** [comment]
We can maybe merge it for now as we will certainly come back to it anyway when preparing the PR #1000 about Minkowski's inequality. Moreover, the theory about ~powR~ is being used for another project that could benefit from having a release with more lemmas.

**Comment by affeldt-aist** [comment]
CI errors seem unrelated...

**Comment by affeldt-aist** [comment]
Here are the last lines for convenience:
```
build flags: -j2 SHELL=/nix/store/vqvj60h076bhqj6977caz0pfxs6543nb-bash-5.2-p15/bin/bash
/nix/store/0qcapxv1v78nridqcr37hkmp0r1hk9x2-coq-dev/bin/coq_makefile  -f Make -o Makefile.coq
make -f Makefile.coq --no-print-directory
COQDEP VFILES
COQC fingroup.v
COQC morphism.v
COQC perm.v
COQC presentation.v
File "./presentation.v", line 165, characters 0-62:
Error: A left-recursive notation must have an explicit level.```

**Comment by affeldt-aist** [comment]
@proux01 Am I right to think that the error messages are unrelated to the last commit? (CI was green before it but the error looks unrelated.)

**Comment by proux01** [comment]
@affeldt-aist yes, this is unrelated. Apparently we merged https://github.com/coq/coq/pull/18031 without proper CI, sorry about that.

**Comment by affeldt-aist** [comment]
> @affeldt-aist yes, this is unrelated. Apparently we merged [coq/coq#18031](https://github.com/coq/coq/pull/18031) without proper CI, sorry about that.

Thanks for the quick answer!
